US05350762
4-Methyl-7-phenoxymethyl-1,2,3,4-tetrahydrocyclopent[b]indole-2-methanol methanesulfonate
To a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-methanol (11.2 g, 0.036 mole) and triethylamine (3.39 g, 0.047 mole) and 220 ml of dichloromethane (anhydrous) was added a solution of methanesulfonyl chloride (5.38 g, 0.047 mole) in 27 ml of dichloromethane. After stirring at ambient temperature for 2 hours, additional triethylamine (3.39 g, 0,047 mole) was added, followed by a solution of methanesulfonyl chloride (5.38 g, 3.6 ml, 0,047 mole) in 30 ml of dichloromethane. After stirring for one hour, the mixture was poured into 500 ml of water. The phases were separated and the dichloromethane portion was washed successively with water and saturated sodium chloride solution. The organic phase was dried (anh. MgSO4) and filtered, and the filtrate was concentrated to a dark green oil (15 g). This oil was eluted on silica gel with ethyl acetate/dichloromethane (1:19) via HPLC. The desired fractions were combined and concentrated to give the product as a white solid, 6.27 g, mp. 94°-96° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-methanol | 0.036 mole, 11.2 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)CO | C20H21NO2
reactant | triethylamine | 0.047 mole, 3.39 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.047 mole, 5.38 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0,047 mole, 3.39 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0,047 mole, 3.6 ml, 5.38 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 500 ml | O | H2O
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
product | 4-Methyl-7-phenoxymethyl-1,2,3,4-tetrahydrocyclopent[b]indole-2-methanol methanesulfonate | CS(=O)(=O)OCC1CC2=C(N(C=3C=CC(=CC23)COC2=CC=CC=C2)C)C1 | C21H23NO4S
